US08563575B2
A mixture of tert-butyl {4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}carbamate (14 g) and 4N HCl/AcOEt (30 mL) in EtOAc (30 mL) was stirred at room temperature overnight. The mixture was neutralized with 1N NaOHaq., and extracted with AcOEt. The organic layer was dried over MgSO4, and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]aniline (5.4 g) as an orange solid.

reactant | tert-butyl {4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}carbamate | 14 g | C[Si](CCOCN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)NC(OC(C)(C)C)=O)(C)C | C24H33N3O4Si
reactant | HCl AcOEt | 4N, 30 mL | Cl.CCOC(=O)C
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]aniline | 5.4 g | C[Si](CCOCN1C(=NC2=C1C=CC=C2)OC2=CC=C(N)C=C2)(C)C | C19H25N3O2Si
